data/oMe_Silver.jsonl
{"reaction_id": "NR-339_1-C(C)(C)C_2-c1cncnc1_3-B1OC(C)(C)C(C)(C)O1","level": "hard","name": "Rupe Rearrangement","reactants_smiles": ["C#CC(O)(C(C)(C)C)C(c1cncnc1)B1OC(C)(C)C(C)(C)O1"],"products_smiles": ["CC(=O)C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C"],"conditions": "Acid (e.g., H2SO4, Formic Acid)","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C#CC([OH2+])(C(C)(C)C)C(c1cncnc1)B1OC(C)(C)C(C)(C)O1","step_weight": 0,"rationale": "Protonation of the hydroxyl increases its leaving group ability by converting OH into water, favored under strong acid due to the high basicity of oxygen."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C#C[C+](C(C)(C)C)C(c1cncnc1)B1OC(C)(C)C(C)(C)O1","step_weight": 0,"rationale": "Heterolytic cleavage of the C–O bond occurs because water is an excellent leaving group and the resulting carbocation is stabilized by the adjacent propargyl system."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C#CC(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Proton elimination forms an allene, driven by the stability from cumulated double bonds and relief of carbocation instability."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C=[C+]C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Electrophilic addition to the allene occurs at the less substituted carbon to generate a more substituted, resonance-stabilized allylic carbocation."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C=C([OH2+])C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Water adds to the carbocation center because the cation is highly electrophilic and water is abundant under acidic aqueous conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C=C(O)C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores the neutral alcohol, favored by the stability of the C–OH bond."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(C)C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Protonation of the alcohol oxygen activates it for tautomerization by increasing the electrophilicity of the adjacent carbon."},{"step": 8,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "CC(=O)C(=C(c1cncnc1)B1OC(C)(C)C(C)(C)O1)C(C)(C)C","step_weight": 0,"rationale": "Proton elimination from the α-carbon leads to the conjugated enone, favored thermodynamically by extended π-conjugation."}],"description": "Under strong acid, the propargyl tertiary alcohol undergoes protonation to activate the hydroxyl as a leaving group, forming a stabilized carbocation. Rearrangement and addition steps proceed via resonance-stabilized cationic intermediates, ultimately yielding the α,β-unsaturated ketone through tautomerization and elimination."}
{"reaction_id": "NR-052_1-CC_2-CCCC(C)C_3-C(C)(C)C","name": "Curtius Rearrangement","level": "medium","reactants_smiles": ["C(CC)(CCCC(C)C)(C(C)(C)C)C(=O)N=[N+]=[N-]"],"products_smiles": ["C(CC)(CCCC(C)C)(C(C)(C)C)N=C=O"],"conditions": "Heat","mechnism_text_description": "The Curtius rearrangement is the thermal decomposition of an acyl azide to form an isocyanate with the loss of nitrogen gas (N2). The reaction typically proceeds via a concerted mechanism where the alkyl or aryl group (R) attached to the carbonyl carbon migrates to the nitrogen atom simultaneously with the expulsion of dinitrogen. This migration results in the formation of an isocyanate.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(CCCC(C)C)(C(C)(C)C)N=C=O","step_weight": 0,"rationale": "Thermal energy promotes a concerted migration of R from carbon to nitrogen, facilitated by the excellent leaving ability of N₂ and stabilization of the developing positive charge on nitrogen, yielding the thermodynamically favored isocyanate."}],"description": "Upon heating, the acyl azide undergoes a concerted 1,2-shift where the R group migrates from the carbonyl carbon to the adjacent nitrogen. This rearrangement is driven by the release of stable N₂ gas and formation of the isocyanate."}
